Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])[C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12],2.65532906
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:5],1.70671456159
[C:7][H:8].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.89222529655
[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-4.8466668987
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],2.65312349348
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8]>>[C:3]([C:4]#[C:5][H:6])[O:7][H:8].[H:1][C:2],6.939754461910001
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.87317473682
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5],5.117786171880001
[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.757945417749999
[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.0365877077000003
[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-0.859249750881
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3][C:7]([H:8])[H:9].[C:4]([H:5])([H:6])[H:10],1.92830995209
[H:1][C:2]#[C:3][O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.16753243405
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.2449735094499998
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11].[H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-5.98136707092
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.8778212182800003
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:8].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13],1.43572436801
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[H:9].[H:5],2.14610020408
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[O:9],1.85803491481
[C:1]#[C:2][O:3][C:4][H:5].[C:6](=[O:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8],-4.41963247454
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[H:4],1.82775471437
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.82121504186
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.87073342389
[C:5]([H:6])=[C:7]([H:8])[C:9]([O:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12],-1.20236306361
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[O:10][H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-1.5763669233700002
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],0.912186883435
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.22828150187
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]1[H:11],-4.458024379009999
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5],6.84071750719
